US05658903
e) 1-(1-t-Butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-anilino-4-pyridinyl)imidazole
To a suspension of NaH (130 mg, 3.3 mmol) in DMA (2 mL) was added aniline (0.58 mL, 6.1 mmol) and stirred until bubling ceased. To this solution was added 1-(1-t-butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-chloro-4-pyridinyl)imidazole (0.30 g, 0.66 mmol) and the resulting solution was heated at 120° C. until no evidence of starting material was observed by mass spectroscopy (1-3 days). To the cooled reaction mixture 1M NaOH was added and the resulting mixture extracted three times with EtOAc. The combined organic layers were washed with brine, dried (MgSO4), filtered, and the filtrate concentrated under reduced pressure to afford a yellow residue which was chromatographed with 50-80% EtOAc/hexanes. The resulting solid was triturated with Et2O to give the title compound as a light yellow solid; yield 180 mg (53%): ESMS m/z=514 (M+ +H).

reactant | NaH | 3.3 mmol, 130 mg | [H-].[Na+]
reactant | aniline | 6.1 mmol, 0.58 mL | NC1=CC=CC=C1 | C6H7N
reactant | 1-(1-t-butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-chloro-4-pyridinyl)imidazole | 0.66 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=NC(=C1C1=CC(=NC=C1)Cl)C1=CC=C(C=C1)F | C24H26ClFN4O2
reactant | NaOH | [OH-].[Na+]
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 1-(1-t-Butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-anilino-4-pyridinyl)imidazole | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=NC(=C1C1=CC(=NC=C1)NC1=CC=CC=C1)C1=CC=C(C=C1)F | C30H32FN5O2
